US06897231B2
B. 3-{4-[2-(Dimethylamino)ethoxy]phenyl}-1H-indazole-5-carbonitrile
Triphenylphosphine (1.31 g, 5.00 mmol), tetrahydrofuran (4.00 mL), 2-N,N-dimethylaminoethanol (0.503 mL, 5.00 mmol) and diethylazodicarboxylate (0.788 mL, 5.00 mmol) were added to 3-(3-hydroxyphenyl)-1-perhydro-2H-pyran-2-yl-1H-indazole-5-carbonitrile (0.400 g, 1.25 mmol). The mixture was stirred at ambient temperature for 15.5 h and poured into aqueous 6 N hydrochloric acid (30 mL). After stirring at ambient temperature for 4 h, the mixture was extracted with ethyl acetate (3×). The aqueous fraction was added to aqueous 6 N sodium hydroxide (30 mL) and the pH adjusted to 11. The solution was extracted with ethyl acetate (3×) and the organic fractions were combined and dried over anhydrous sodium sulfate, filtered and evaporated. Purification by flash chromatography on silica pretreated with 2% triethylamine/hexanes followed by 0-20% ethyl acetate/hexanes, sonication of the product in ethyl acetate (3 mL), addition of hexanes (20 mL) and filtration gave the title compound (0.177 g, 41% yield). ES-MS (m/z) 307 [M+1]+.

reactant | Triphenylphosphine | 5.00 mmol, 1.31 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diethylazodicarboxylate | 5.00 mmol, 0.788 mL | CCOC(=O)/N=N/C(=O)OCC | C6H10N2O4
reactant | 3-(3-hydroxyphenyl)-1-perhydro-2H-pyran-2-yl-1H-indazole-5-carbonitrile | 1.25 mmol, 0.400 g | OC=1C=C(C=CC1)C1=NN(C2=CC=C(C=C12)C#N)C1OCCCC1 | C19H17N3O2
reactant | hydrochloric acid | 6 N, 30 mL | Cl | ClH
reactant | tetrahydrofuran | 4.00 mL | O1CCCC1 | C4H8O
product | 3-{4-[2-(Dimethylamino)ethoxy]phenyl}-1H-indazole-5-carbonitrile | 0.177 g, 41% yield | CN(CCOC1=CC=C(C=C1)C1=NNC2=CC=C(C=C12)C#N)C | C18H18N4O
